US08809389B2
Synthesis of 1-(but-2-ynyloxy)-3,4-dimethoxybenzene
Following the same procedure as in Example 2, 15.4 g (0.1 mole) of 1-hydroxy-3,4-dimethoxybenzene, 13.8 g (0.1mole) of anhydrous potassium carbonate in ml 50 of acetone and 13.3 g (0.1 mole) of 1-bromo-2-butyne were reacted. After work up and evaporation of the mixture u.v. (20° C./21 mbar), a residue was obtained, that after purification on silica gel column (eluant n-hexane:ethyl acetate 5:1 v/v) gave a thick oil that after some time solidified with low melting point (28-30° C.), whose NMR and MS analyses corresponded to those of the aforementioned compound.

reactant | 1-hydroxy-3,4-dimethoxybenzene | 0.1 mole, 15.4 g | OC1=CC(=C(C=C1)OC)OC | C8H10O3
reactant | potassium carbonate | 0.1mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 0.1 mole, 13.3 g | BrCC#CC | C4H5Br
solvent | acetone | CC(=O)C | C3H6O
product | 1-(but-2-ynyloxy)-3,4-dimethoxybenzene | C(C#CC)OC1=CC(=C(C=C1)OC)OC | C12H14O3
